US04139621
A mixture of 3,5-dichloro-4-methoxyaniline (16.0g) and bis-(2-chloroethyl)amine hydrochloride (14.77g) in n-butanol (100 ml) was stirred under reflux for 48 hr. Anhydrous potassium carbonate (11.45g) was added and the resulting mixture was stirred under reflux for a further 24 hr., then filtered hot. The solid which precipitated on cooling was crystallised from ethanol-ether to give 1-(3,5-dichloro-4-methoxyphenyl)piperazine hydrochloride (3.7g) m.p. 252°-255°.

reactant | 3,5-dichloro-4-methoxyaniline | 16.0g | ClC=1C=C(N)C=C(C1OC)Cl | C7H7Cl2NO
reactant | bis-(2-chloroethyl)amine hydrochloride | 14.77g | Cl.ClCCNCCCl
reactant | potassium carbonate | 11.45g | C([O-])([O-])=O.[K+].[K+]
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 1-(3,5-dichloro-4-methoxyphenyl)piperazine hydrochloride | 3.7g | Cl.ClC=1C=C(C=C(C1OC)Cl)N1CCNCC1 | InChI=1S/C11H14Cl2N2O.ClH/c1-16-11-9(12)6-8(7-10(11)13)15-4-2-14-3-5-15;/h6-7,14H,2-5H2,1H3;1H
